US08748649B2
(S)-5-cyclopropyl-4,4-difluoro-1-methoxy-1-oxopentan-2-amine hydrochloride (250 mg, 10 mmol), trifluoroacetophenone (179 mg, 10 mmol), potassium carbonate (426 mg, 30 mmol) was charged in isopropanol (10 mL) under nitrogen. The reaction mixture stirred for 20 h at 60° C. When TLC showed an absence of starting material, is the mixture was filtered under hot and the solids were washed with isopropanol (20 mL) and the filtrates were combined and concentrated under reduced pressure. The residue (400 mg, 10 mmol) was dissolved in acetonitrile (5 mL) and methanol (1 mL) and transferred to a dropping funnel under nitrogen. The zinc borohydride suspension prepared as described above was cooled to −45° C. and treated with the imine solution which was added drop-wise and the reaction was stirred at same temperature for 1 h. Once the staring material was consumed, is the reaction mixture was quenched with 1N HCl solution (10 mL) at 0° C. and then allowed to warm to room temperature. The mixture was extracted with ethyl acetate (3×40 mL) and the combined organic extracts washed with water (50 mL) and brine (50 mL). The organic extracts were evaporated under reduced pressure, and the residue re-dissolved in ethyl acetate (20 mL) and washed with water (20 mL) and brine (50 mL). The solution was dried (MgSO4) and the solvent evaporated under reduced pressure to give (S)-5-cyclopropyl-4,4-difluoro-2-((S)-2,2,2-trifluoro-1-phenylethylamino)pentanoic acid as a pale oil (265 mg, 71.3%).

reactant | (S)-5-cyclopropyl-4,4-difluoro-1-methoxy-1-oxopentan-2-amine hydrochloride | 10 mmol, 250 mg | Cl.C1(CC1)CC(C[C@@H](C(=O)OC)N)(F)F
reactant | trifluoroacetophenone | 10 mmol, 179 mg | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | potassium carbonate | 30 mmol, 426 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 1 mL | CO | CH4O
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | zinc borohydride | [BH4-].[Zn+2].[BH4-]
product | (S)-5-cyclopropyl-4,4-difluoro-2-((S)-2,2,2-trifluoro-1-phenylethylamino)pentanoic acid | 265 mg, 71.3% | C1(CC1)CC(C[C@@H](C(=O)O)N[C@H](C(F)(F)F)C1=CC=CC=C1)(F)F | C16H18F5NO2
